### PR TITLE
[Merged by Bors] - chore: rename `induction_on'''`

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR addresses a few things:

* It renames `MvPolynomial.induction_on'''` (three primes!) to `MvPolynomial.monomial_add_induction_on`, addressing a particularly egregious instance of the docPrime linter.
* It improves the docstrings of this and nearby induction principles to be a bit more clear.
* It changes the type of a component of the argument of some of these from `(σ →₀ ℕ) →₀ R` to `MvPolynomial σ R`, making the theorems more readable and addressing two porting notes.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 1]
```diff
@@ -372,27 +372,43 @@ theorem induction_on' {P : MvPolynomial σ R → Prop} (p : MvPolynomial σ R)
...
     fun _ _ _ _ha _hb hPf => h2 _ _ (h1 _ _) hPf
 
-/-- Similar to `MvPolynomial.induction_on` but only a weak form of `h_add` is required. -/
-theorem induction_on''' {M : MvPolynomial σ R → Prop} (p : MvPolynomial σ R) (h_C : ∀ a, M (C a))
+/--
+Similar to `MvPolynomial.induction_on` but only a weak form of `h_add` is required.
+In particular, this version only requires us to show
+that `M` is closed under addition of nontrivial monomials not present in the support.
+-/
+theorem monomial_add_induction_on {M : MvPolynomial σ R → Prop} (p : MvPolynomial σ R)
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:380]:
```suggestion
@[elab_as_elim]
theorem monomial_add_induction_on {M : MvPolynomial σ R → Prop} (p : MvPolynomial σ R)
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 2]
```diff
@@ -372,27 +372,43 @@ theorem induction_on' {P : MvPolynomial σ R → Prop} (p : MvPolynomial σ R)
...
+    (h_C : ∀ a, M (C a))
     (h_add_weak :
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:382]: Can you rename these to `C` and `monomial_add` / `monomial_add_weak` / `monomial_add_of_nmem_support_of_ne_zero`, so that this works with `induction`?

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 3]
```diff
@@ -728,7 +728,7 @@ theorem eval₂_mem {f : R →+* S} {p : MvPolynomial σ R} {s : subS}
     · exact hs i hi
     · rw [MvPolynomial.not_mem_support_iff.1 hi, f.map_zero]
       exact zero_mem s
-  induction' p using MvPolynomial.induction_on''' with a a b f ha _ ih
+  induction' p using MvPolynomial.monomial_add_induction_on with a a b f ha _ ih
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Eval.lean:731]: Could you deprime this while you're here?

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 4]
```diff
@@ -345,18 +345,19 @@ theorem monomial_eq : monomial s a = C a * (s.prod fun n e => X n ^ e : MvPolyno
 lemma prod_X_pow_eq_monomial : ∏ x ∈ s.support, X x ^ s x = monomial s (1 : R) := by
   simp only [monomial_eq, map_one, one_mul, Finsupp.prod]
 
-theorem induction_on_monomial {M : MvPolynomial σ R → Prop} (h_C : ∀ a, M (C a))
-    (h_X : ∀ p n, M p → M (p * X n)) : ∀ s a, M (monomial s a) := by
+theorem induction_on_monomial {M : MvPolynomial σ R → Prop}
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:348]:
```suggestion
@[elab_as_elim]
theorem induction_on_monomial {M : MvPolynomial σ R → Prop}
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 5]
```diff
@@ -345,18 +345,19 @@ theorem monomial_eq : monomial s a = C a * (s.prod fun n e => X n ^ e : MvPolyno
...
+    (C : ∀ a, M (C a))
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:349]: Can you rename `M` to `motive` too?

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 6]
```diff
@@ -372,31 +374,52 @@ theorem induction_on' {P : MvPolynomial σ R → Prop} (p : MvPolynomial σ R)
...
-/-- Analog of `Polynomial.induction_on`. -/
+/--
+Similar to `MvPolynomial.induction_on` but only a weak form of `h_add` is required.
+In particular, this version only requires us to show
+that `motive` is closed under addition of nontrivial monomials not present in the support.
+-/
+@[elab_as_elim]
+theorem monomial_add_induction_on {motive : MvPolynomial σ R → Prop} (p : MvPolynomial σ R)
+    (C : ∀ a, motive (C a))
+    (monomial_add_weak :
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:385]:
```suggestion
    (monomial_add :
```
I think I prefer this as branch name in the induction proofs... what do you think?

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 7]
```diff
@@ -372,31 +374,52 @@ theorem induction_on' {P : MvPolynomial σ R → Prop} (p : MvPolynomial σ R)
...
+
+/--
+Similar to `MvPolynomial.induction_on` but only a yet weaker form of `h_add` is required.
+In particular, this version only requires us to show
+that `motive` is closed under addition of monomials not present in the support
+for which `motive` is already known to hold.
+-/
+theorem induction_on'' {motive : MvPolynomial σ R → Prop} (p : MvPolynomial σ R)
+    (C : ∀ a, motive (C a))
+    (monomial_add_weak :
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:402]:
```suggestion
    (monomial_add :
```
Idem dito

File: Mathlib/Algebra/MvPolynomial/Eval.lean [hunk 8]
```diff
@@ -728,20 +728,22 @@ theorem eval₂_mem {f : R →+* S} {p : MvPolynomial σ R} {s : subS}
...
-  rw [coeff_add, coeff_monomial] at this
-  split_ifs at this with h
-  · subst h
-    rw [MvPolynomial.not_mem_support_iff.1 ha, map_zero]
-    exact zero_mem _
-  · rwa [zero_add] at this
+  induction p using MvPolynomial.monomial_add_induction_on with
+  | C a =>
+    simpa using hs 0
+  | monomial_add_weak a b f ha _ ih =>
```
Comment (jcommelin) [inline Mathlib/Algebra/MvPolynomial/Eval.lean:734]: For example, this would then become
```suggestion
  | monomial_add a b f ha _ ih =>
```

File: Mathlib/Algebra/MvPolynomial/Basic.lean [hunk 9]
```diff
@@ -345,18 +345,20 @@ theorem monomial_eq : monomial s a = C a * (s.prod fun n e => X n ^ e : MvPolyno
...
-    have : ∀ e : ℕ, M (monomial p a * X n ^ e) := by
+    have : ∀ e : ℕ, motive (monomial p a * X n ^ e) := by
       intro e
       induction e with
       | zero => simp [ih]
-      | succ e e_ih => simp [ih, pow_succ, (mul_assoc _ _ _).symm, h_X, e_ih]
+      | succ e e_ih => simp [ih, pow_succ, (mul_assoc _ _ _).symm, mul_X, e_ih]
     simp [add_comm, monomial_add_single, this]
 
 /-- Analog of `Polynomial.induction_on'`.
```
Comment (eric-wieser) [inline Mathlib/Algebra/MvPolynomial/Basic.lean:364]: Could we rename the arguments to this one too, for consistency?

Comment (BoltonBailey) [reply Mathlib/Algebra/MvPolynomial/Basic.lean:364]: what would you like them renamed to? The Analogous choice for `h_1` would be `monomial` but this causes collisions.
